US06706757B2
Preparation of Ethyl 7-Amino-2-chromancarboxylate
A solution of ethyl 7-amino-4-oxo-4H-chromene-2-carboxylate (1.00 g, 4.3 mmol) in ethanol and concentrated HCl (5 mL) is hydrogenated over 10% Pd/C (0.5 g) at 50 psi for 72 h at ambient temperature. The reaction mixture is filtered and the filtrate is concentrated in vacuo. The resultant residue is dissolved in ethyl acetate and washed with saturated aqueous NaHCO3. The organic phase is dried over MgSO4, and concentrated in vacuo to afford the title compound as an amber oil, 0.85 g (89% yield), identified by NMR and mass spectral analyses.

reactant | ethyl 7-amino-4-oxo-4H-chromene-2-carboxylate | 4.3 mmol, 1.00 g | NC1=CC=C2C(C=C(OC2=C1)C(=O)OCC)=O | C12H11NO4
solvent | ethanol | C(C)O | C2H6O
solvent | HCl | 5 mL | Cl | ClH
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | Ethyl 7-Amino-2-chromancarboxylate | 89% yield | NC1=CC=C2CCC(OC2=C1)C(=O)OCC | C12H15NO3
